US06350749B1
A mixture of 5-(2,6-dichlorophenyl)cyclohexane-1,3-dione (1.8 g) and ammonium acetate (1.7 g) in ethanol (20 ml) was refluxed for 60 hours, and the reaction solution was concentrated under reduced pressure. To the residue were added ethyl acetate (80 ml) and water (20 ml), and the mixture was shaken and separated. The ethyl acetate layer was washed with water (10 ml, thrice) and concentrated under reduced pressure. To the residue was added ethyl acetate (8 ml) to precipitate crystals, which were filtered and dried to give 1-amino-5-(2,6-dichlorophenyl)cyclohexen-3-one (1.43 g) as pale yellow crystals.

reactant | 5-(2,6-dichlorophenyl)cyclohexane-1,3-dione | 1.8 g | ClC1=C(C(=CC=C1)Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
reactant | ammonium acetate | 1.7 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-amino-5-(2,6-dichlorophenyl)cyclohexen-3-one | 1.43 g | NC1=CC(CC(C1)C1=C(C=CC=C1Cl)Cl)=O | C12H11Cl2NO
